US09403801B2
Step 3) 5-chloro-N2-(1,3-dimethyl-1H-pyrazol-4-yl)-N4-(3-azaspiro[5.5]undecan-9-yl) pyrimidine-2,4-diamine
To a solution of tert-butyl 9-((2,5-dichloropyrimidin-4-yl)amino)-3-azaspiro[5.5]undecane-3-carboxylate (504.1 mg, 1.214 mmol) and 1,3-dimethyl-1H-pyrazol-4-amine hydrochloride (381.0 mg, 2.581 mmol) in n-BuOH (10 mL) was added trifluoroacetic acid (678.1 mg, 5.947 mmol). The mixture was stirred at 100° C. overnight, then quenched with water (30 mL), and adjusted to pH=9 with solid NaHCO3, and then extracted with DCM (200 mL×3). The combined organic phases were washed with brine (100 mL), dried over anhydrous Na2SO4, filtered and concentrated in vacuo. The residue was purified by silica gel column chromatography (MeOH/DCM (v/v)=1/10) to give the title compound as brown oil (271 mg, 45.57%).

reactant | tert-butyl 9-((2,5-dichloropyrimidin-4-yl)amino)-3-azaspiro[5.5]undecane-3-carboxylate | 1.214 mmol, 504.1 mg | ClC1=NC=C(C(=N1)NC1CCC2(CCN(CC2)C(=O)OC(C)(C)C)CC1)Cl | C19H28Cl2N4O2
reactant | 1,3-dimethyl-1H-pyrazol-4-amine hydrochloride | 2.581 mmol, 381.0 mg | Cl.CN1N=C(C(=C1)N)C
reactant | trifluoroacetic acid | 5.947 mmol, 678.1 mg | FC(C(=O)O)(F)F | C2HF3O2
solvent | n-BuOH | 10 mL | CCCCO | C4H10O
product | 5-chloro-N2-(1,3-dimethyl-1H-pyrazol-4-yl)-N4-(3-azaspiro[5.5]undecan-9-yl) pyrimidine-2,4-diamine | 271 mg, 45.57% | ClC=1C(=NC(=NC1)NC=1C(=NN(C1)C)C)NC1CCC2(CCNCC2)CC1 | C19H28ClN7
